US05200412
A solution of O-methyl-L-tyrosine (1.44 g, 7.4 mmol) in methanol (30 ml) was stirred at 0° C. and thionyl chloride (1 ml, 13.4 mmol) added dropwise. After stirring for 15 min. at ambient temperature the reaction was heated at reflux for 2 h. After cooling the solvent was evaporated to give crude O-methyl-L-tyrosine methyl ester hydrochloride salt as a yellow solid This was partitioned between saturated aqueous sodium hydrogen carbonate (80 ml) and ethyl acetate (150 ml), and the aqueous layer back extracted with ethyl acetate (2×80 ml). The combined organics were dried over anhydrous sodium sulphate, filtered and concentrated to give O-methyl-L-tyrosine methyl ester as a yellow oil.

reactant | O-methyl-L-tyrosine | 7.4 mmol, 1.44 g | COC1=CC=C(C[C@H](N)C(=O)O)C=C1 | C10H13NO3
reactant | thionyl chloride | 13.4 mmol, 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 30 ml | CO | CH4O
product | O-methyl-L-tyrosine methyl ester hydrochloride salt | Cl.COC([C@@H](N)CC1=CC=C(C=C1)OC)=O | InChI=1S/C11H15NO3.ClH/c1-14-9-5-3-8(4-6-9)7-10(12)11(13)15-2;/h3-6,10H,7,12H2,1-2H3;1H/t10-;/m0./s1
